US05324747
A mixture of 5.5 g (0.015 mol) of 3-(octadecyloxy)benzenamine, 7.3 ml (0.046 mol) of benzyl bromoacetate, 8.2 g (0.038 mol) of 1,8-bis(dimethylamino)naphthalene, 0.64 g (4.26 mmol) of sodium iodide in 100 ml of anhydrous acetonitrile and 25 ml of anhydrous DMF was stirred at reflux under an argon atmosphere for 48 hours. The solvents were removed at reduced pressure and the residue was dissolved in ethyl acetate and washed with 0.05N HCl, with saturated NaHCO3 solution dried and concentrated at reduced pressure. Purification by HPLC using 15% ethyl acetate-hexane gave, after recrystallization of the combined pure fractions from ether-hexane, 6.56 g (69% yield, mp 55°-57°) of N-[3-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester.

reactant | 3-(octadecyloxy)benzenamine | 0.015 mol, 5.5 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=CC1)N | C24H43NO
reactant | benzyl bromoacetate | 0.046 mol, 7.3 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | 0.038 mol, 8.2 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 4.26 mmol, 0.64 g | [I-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-[3-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 6.56 g, 69% yield | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C42H59NO5
